US07320974B2
(R)-4-((2R,4R,6R)-4-Hydroxy-2-methoxy-6-phenethyl-tetrahydro-2H-pyran-2-yl)-3-(4-methoxybenzyl)thiazolidin-2-one
Application of the method shown in Example 13, with the modification that (R)-4-((2R,4R,6R)-2,4-dihydroxy-6-phenethyl-tetrahydro-2H-pyran-2-yl)-3-(4-methoxybenzyl)thiazolidin-2-one is substituted for (R)-4-((2R,4S,6R)-2,4-dihydroxy-6-(pent-4-enyl)-tetrahydro-2H-pyran-2-yl)-3-(4-methoxybenzyl)thiazolidin-2-one, affords the title compound.

reactant | (R)-4-((2R,4R,6R)-2,4-dihydroxy-6-phenethyl-tetrahydro-2H-pyran-2-yl)-3-(4-methoxybenzyl)thiazolidin-2-one | O[C@]1(O[C@@H](C[C@H](C1)O)CCC1=CC=CC=C1)[C@H]1N(C(SC1)=O)CC1=CC=C(C=C1)OC | C24H29NO5S
reactant | (R)-4-((2R,4S,6R)-2,4-dihydroxy-6-(pent-4-enyl)-tetrahydro-2H-pyran-2-yl)-3-(4-methoxybenzyl)thiazolidin-2-one | O[C@]1(O[C@@H](C[C@@H](C1)O)CCCC=C)[C@H]1N(C(SC1)=O)CC1=CC=C(C=C1)OC | C21H29NO5S
product | (R)-4-((2R,4R,6R)-4-Hydroxy-2-methoxy-6-phenethyl-tetrahydro-2H-pyran-2-yl)-3-(4-methoxybenzyl)thiazolidin-2-one | O[C@H]1C[C@](O[C@@H](C1)CCC1=CC=CC=C1)(OC)[C@H]1N(C(SC1)=O)CC1=CC=C(C=C1)OC | C25H31NO5S
